US03981886
2-Amino-1,3-bis[(2-bromophenoxy)methyl]-1H-benzimidazol-3-ium chloride
o-Bromo-α-chloroanisole 15.0 g (0.0679 mol) in 20 ml of sulfolane is added to a solution of 4.50 g (0.0339 mol) of 2-aminobenzimidazole in 40 ml of sulfolane. The mixture turns into a semi-solid mass upon standing for several hours. After standing for 6.75 days at room temperature, the reaction mixture is diluted with 40 ml of 2-propanol, filtered, and the product is washed with 2-propanol. Trituration with ether gives 7.7 g (43%) of a white solid; mp 229°-230°. Recrystallization of 3.5 g of this material from 340 ml of 90% ethanol gives 2.5 g of the named product as a white fluffy solid after drying for 6 hours at 78° (1 mm): mp 236°-237°dec.

reactant | o-Bromo-α-chloroanisole | 0.0679 mol, 15.0 g | BrC1=C(C=CC=C1)OCCl | C7H6BrClO
reactant | 2-aminobenzimidazole | 0.0339 mol, 4.50 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
solvent | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | sulfolane | 40 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | 2-propanol | 40 ml | CC(C)O | C3H8O
product | 2-Amino-1,3-bis[(2-bromophenoxy)methyl]-1H-benzimidazol-3-ium chloride | 7.7 g, 43% | [Cl-].NC1=[N+](C2=C(N1COC1=C(C=CC=C1)Br)C=CC=C2)COC2=C(C=CC=C2)Br | InChI=1S/C21H17Br2N3O2.ClH/c22-15-7-1-5-11-19(15)27-13-25-17-9-3-4-10-18(17)26(21(25)24)14-28-20-12-6-2-8-16(20)23;/h1-12,24H,13-14H2;1H
